US06770643B2
6-(4-Methylsulfinylphenyl)-5H-pyrrolo[2,3-b]pyrazine
A stirred suspension of 6-(4-methylthiophenyl)-5H-pyrrolo[2,3-b]pyrazine [0.2362 g, Example 1(ah)] in dichloromethane (20 mL) was treated with TBA oxone (2.545 g). After 2 hours the resulting orange solution was evaporated. The residue was subjected to flash chromatography eluting with a mixture of methanol and dichloromethane (1:1, v/v) to give the title compound as a white solid. MS: 258 (MH+). 1H NMR [(CD3)2SO]: δ 12.66 (1H, s); 8.41 (1H, s); 8.24 (3H, m); 7.82 (2H, d, J=8.7 Hz); 7.33 (1H, s); 2.81 (3H, s).

reactant | 6-(4-methylthiophenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.2362 g | CSC1=CC=C(C=C1)C1=CC=2C(=NC=CN2)N1 | C13H11N3S
reactant | oxone | 2.545 g | OOS(=O)[O-].[K+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-(4-Methylsulfinylphenyl)-5H-pyrrolo[2,3-b]pyrazine | CS(=O)C1=CC=C(C=C1)C1=CC=2C(=NC=CN2)N1 | C13H11N3OS
